US08835428B2
2-(3-(4-(6-fluorobenzo[d]thiazol-2-yloxy)phenyl)isoxazole-5-carboxamido)-3-methylbutanoic acid
To Methyl 2-(3-(4-(6-fluorobenzo[d]thiazol-2-yloxy)phenyl)isoxazole-5-carboxamido)-3-methylbutanoate (160 mg) in THF (4 ml), 1 M aqueous solution of Lithium hydroxide monohydrate (0.68 ml) was added and reaction mixture was stirred at RT for 6 hours. The reaction mixture was acidified with dilute HCl and extracted with EtOAc. Organic layer was collected and dried over Na2SO4 and concentrated to obtain off white solid, which was crystallized from EtOAc to yield 82 mg (52%) of the title compound as white solid. MS (ES+): m/z 456 (M+1); 1HNMR (DMSO-d6, 300 MHz): δ 12.9 (bs, 1H), 9.04 (d, 1H), 8.08 (d, 2H), 7.93 (dd, 1H), 7.81 (s, 1H), 7.75 (dd, 1H), 7.67 (d, 2H), 7.3 (m, 1H), 4.29 (m, 1H), 2.23 (m, 1H), 0.96 (d, 6H).

reactant | Methyl 2-(3-(4-(6-fluorobenzo[d]thiazol-2-yloxy)phenyl)isoxazole-5-carboxamido)-3-methylbutanoate | 160 mg | FC1=CC2=C(N=C(S2)OC2=CC=C(C=C2)C2=NOC(=C2)C(=O)NC(C(=O)OC)C(C)C)C=C1 | C23H20FN3O5S
reactant | Lithium hydroxide monohydrate | 0.68 ml | O.[OH-].[Li+]
reactant | HCl | Cl | ClH
solvent | THF | 4 ml | C1CCOC1 | C4H8O
product | 2-(3-(4-(6-fluorobenzo[d]thiazol-2-yloxy)phenyl)isoxazole-5-carboxamido)-3-methylbutanoic acid | 82 mg, 52% | FC1=CC2=C(N=C(S2)OC2=CC=C(C=C2)C2=NOC(=C2)C(=O)NC(C(=O)O)C(C)C)C=C1 | C22H18FN3O5S
